US07618970B2
N-[(1R,3S)-3-Isopropyl-3-({4-[4-(trifluoromethyl)pyrimidin-2-yl]piperazin-1-yl}carbonyl)cyclopentyl]-3-methoxytetrahydro-2H-pyran-4-amine
To a solution of (1R,3S)-3-isopropyl-3-({4-[4-(trifluoromethyl)pyrimidin-2-yl]piperazin-1-yl}carbonyl)cyclopentanamine dihydrochloride (135.0 mg, 0.2945 mmol), 3-methoxytetrahydro-4H-pyran-4-one (110 mg, 0.88 mmol) and triethylamine (0.16 mL, 1.2 mmol) in methylene chloride (8 mL) was added sodium triacetoxyborohydride (190 mg, 0.88 mmol). After being stirred at room temperature overnight, the reaction was quenched with saturated NaHCO3. The resulting solution was extracted with EtOAc three times. The combined organic layers were dried (MgSO4), concentrated. The residue was purified by flash chromatography on silica gel (EtOAc to EtOAc/Et3N=10:0.1) to give 123 mg of desired product as a mixture of two isomers. The two isomers were separated by chiral HPLC to give isomer 1 (65 mg after converting to TFA salt) and isomer 2 (45 mg after converting to TFA salt). LCMS calculated for C24H36F3N5O3: (M+1) 500; found 500.1 for both isomers.

reactant | (1R,3S)-3-isopropyl-3-({4-[4-(trifluoromethyl)pyrimidin-2-yl]piperazin-1-yl}carbonyl)cyclopentanamine dihydrochloride | 0.2945 mmol, 135.0 mg | Cl.Cl.C(C)(C)[C@]1(C[C@@H](CC1)N)C(=O)N1CCN(CC1)C1=NC=CC(=N1)C(F)(F)F
reactant | 3-methoxytetrahydro-4H-pyran-4-one | 0.88 mmol, 110 mg | COC1COCCC1=O | C6H10O3
reactant | triethylamine | 1.2 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.88 mmol, 190 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | N-[(1R,3S)-3-Isopropyl-3-({4-[4-(trifluoromethyl)pyrimidin-2-yl]piperazin-1-yl}carbonyl)cyclopentyl]-3-methoxytetrahydro-2H-pyran-4-amine | 123 mg | C(C)(C)[C@]1(C[C@@H](CC1)NC1C(COCC1)OC)C(=O)N1CCN(CC1)C1=NC=CC(=N1)C(F)(F)F | C24H36F3N5O3
